US04689327
A solution of 1.1 g of dimethylsulfoxide in 5 ml of methylene chloride is added to a solution of 0.894 g of oxalyl chloride in 20 ml of methylene chloride at -50° C. A solution of 2.19 g of 2-[3-(4-phenylpiperazin-1-yl)propylthio]benzylalcohol in 10 ml of methylene chloride is added to the mixture at -50° C., and the mixture is stirred at the same temperature for 15 minutes. 3.24 g of triethylamine are added to the mixture, and the mixture is stirred at -50° C. for 5 minutes and further stirred at room temperature for one hour. The mixture is poured into water, and the aqueous mixture is extracted with methylene chloride. The extract is washed with water, dried and concentrated under reduced pressure to remove solvent. The residue is purified by silica gel chromatography (solvent, ethyl acetate:chloroform=1:6). 1.97 g of 2-[3-(4-phenylpiperazin-1-yl)propylthio]benzaldehyde are obtained as an oil. Yield: 90.5%.

reactant | dimethylsulfoxide | 1.1 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.894 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-[3-(4-phenylpiperazin-1-yl)propylthio]benzylalcohol | 2.19 g | C1(=CC=CC=C1)N1CCN(CC1)CCCSC1=C(CO)C=CC=C1 | C20H26N2OS
reactant | triethylamine | 3.24 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-[3-(4-phenylpiperazin-1-yl)propylthio]benzaldehyde | 1.97 g, Yield: 90.5% | C1(=CC=CC=C1)N1CCN(CC1)CCCSC1=C(C=O)C=CC=C1 | C20H24N2OS
